US07851629B2
4-(2,3-dichlorophenyl)-1-methylpiperidine
A mixture of 4-(2,3-dichlorophenyl)piperidine (20 mg, 0.064 mmol), 1,2-dichloroethane (1 ml), glacial acetic acid (4 mg, 0.064 mmol), paraformaldehyde (2 mg, 0.066 mmol) and sodium triacetoxyborohydride (20 mg, 0.092 mmol) was stirred 15 h at ambient temperature. MS m/z (rel. intensity, 70 eV) 244 (M+, 68), 243 (54), 242 (bp), 208 (61), 115 (29).

reactant | 4-(2,3-dichlorophenyl)piperidine | 0.064 mmol, 20 mg | ClC1=C(C=CC=C1Cl)C1CCNCC1 | C11H13Cl2N
reactant | acetic acid | 0.064 mmol, 4 mg | C(C)(=O)O | C2H4O2
reactant | paraformaldehyde | 0.066 mmol, 2 mg | C=O | CH2O
reactant | sodium triacetoxyborohydride | 0.092 mmol, 20 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 1 ml | ClCCCl | C2H4Cl2
product | 4-(2,3-dichlorophenyl)-1-methylpiperidine | ClC1=C(C=CC=C1Cl)C1CCN(CC1)C | C12H15Cl2N
